US06846833B2
Step a: tert-Butyl 2-[(tert-butoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate
BOC2O (34.8 g; 160 mmol) is added at ambient temperature, with stirring, to a solution of aminobenzimidazole (10.66 g; 80 mmol) in 200 ml of tert-butanol. Stirring is maintained for 10 hours. The precipitate is filtered off and rinsed with pentane to yield the expected product.

reactant | BOC2O | 160 mmol, 34.8 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | aminobenzimidazole | 80 mmol, 10.66 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
solvent | tert-butanol | 200 ml | C(C)(C)(C)O | C4H10O
product | tert-Butyl 2-[(tert-butoxycarbonyl)amino]-1H-benzimidazole-1-carboxylate | C(C)(C)(C)OC(=O)NC1=NC2=C(N1C(=O)OC(C)(C)C)C=CC=C2 | C17H23N3O4
